US04459150
5-Amino-4-cyano-1-(2,3,6-trichloro-4-trifluoromethylphenyl)pyrazole (3.74 g) in acetic anhydride (20 ml) was heated at reflux for 6 hours. The reaction mixture was then evaporated under reduced pressure to remove unreacted acetic anhydride. The residual oil was dissolved in dichloromethane (50 ml) and filtered. The filtrate was evaporated to give a foam, which was then suspended in water (70 ml). The suspension was filtered and the filtrate deposited a solid on standing. The solid was collected by filtration and washed with water to give 5-acetamido-4-cyano-1-(2,3,6-trichloro-4-trifluoromethylphenyl)pyrazole (0.4 g), m.p. 177°-178° C., in the form of a fawn-coloured solid.

reactant | 5-Amino-4-cyano-1-(2,3,6-trichloro-4-trifluoromethylphenyl)pyrazole | 3.74 g | NC1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)C#N | C11H4Cl3F3N4
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 70 ml | O | H2O
product | 5-acetamido-4-cyano-1-(2,3,6-trichloro-4-trifluoromethylphenyl)pyrazole | 0.4 g | C(C)(=O)NC1=C(C=NN1C1=C(C(=C(C=C1Cl)C(F)(F)F)Cl)Cl)C#N | C13H6Cl3F3N4O
